US05969138
(6) Preparation of 1-(2-methoxyethyl)piperazine dihydrochloride
To a solution of 57.2 g of 1-formyl-4-methoxyethylpiperazine in 100 mL of methanol was added dropwise 180 mL of 4N-hydrochloric acid/1,4-dioxane over 1.5 hours. The mixture was stirred at room temperature for 1 hour, and the resulting crystals were filtered, washed with isopropyl ether and dried in vacuo to give 68.8 g of the title compound.

reactant | 1-formyl-4-methoxyethylpiperazine | 57.2 g | C(=O)N1CCN(CC1)CCOC | C8H16N2O2
reactant | hydrochloric acid 1,4-dioxane | Cl.O1CCOCC1
solvent | methanol | 100 mL | CO | CH4O
product | 1-(2-methoxyethyl)piperazine dihydrochloride | 68.8 g | Cl.Cl.COCCN1CCNCC1 | InChI=1S/C7H16N2O.2ClH/c1-10-7-6-9-4-2-8-3-5-9;;/h8H,2-7H2,1H3;2*1H
